US07501430B2
1g: Preparation of N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine
The 4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride (6.81 g, 14.2 mmol) in methylene chloride (DCM) (60 ml) was cooled to 0° C. and was treated with Hunig's base (9.9 ml, 56.8 mmol). The mixture was kept at 0° C. for 30 minutes then the 4-chlorophenylsulfonyl chloride (3.3 g, 15.6 mmol) was added. The reaction mixture was stirred at room temperature overnight. The mixture was diluted with methylene chloride (100 ml) and was washed water (100 ml) and a saturated aqueous sodium chloride solution (100 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography using a gradient (ethyl acetate/hexanes, 40-100%), affording 6.98 g (85%) of the title compound as a pale yellow solid. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.42 (br. s, 1H), 8.12 (d, J=5.1 Hz, 1H), 7.8-7.75 (m, 2H), 7.7-7.65 (m, 2H), 7.43-7.39 (m, 1H), 7.36 (d, J=7.8 Hz, 1H), 7.18-7.1 (m, 2H), 7.05-6.98 (m, 1H), 6.42 (d, J=5.1 Hz, 1H), 4.0-3.9 (m, 1H), 3.78 (s, 3H), 3.74 (d, J=11.7 Hz, 1H), 3.48 (d, J=11.7 Hz, 1H), 2.5-2.4 (m, 1H), 2.33 (t, J=5.3 Hz, 1H), 1.95-1.8 (m, 2H), 1.65-1.5 (m, 1H), 1.45-1.4 (m, 1H). LCMS: 581 [M+H].

reactant | 4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride | 14.2 mmol, 6.81 g | Cl.COC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CNCCC1
reactant | Hunig's base | 56.8 mmol, 9.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorophenylsulfonyl chloride | 15.6 mmol, 3.3 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 6.98 g, 85% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)OC | C27H25ClN6O3S2
